US06436966B1
N-[5-Phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]acetamide
To a solution of [5-phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine (1.10 g, 4.34 mmol) in N,N-dimethylacetamide (20 mL) was added acetyl chloride (680 mg, 8.68 mmol) and stirred at 80° C. for 3 h. Water was added to the reaction mixture and extracted with ethyl acetate twice. The combined organic phases were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from chloroform-ethyl ether to give the title compound (750 mg, yield 59%).

reactant | [5-phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]amine | 4.34 mmol, 1.10 g | C1(=CC=CC=C1)C1=C(N=C(S1)N)C=1C=NC=CC1 | C14H11N3S
reactant | acetyl chloride | 8.68 mmol, 680 mg | C(C)(=O)Cl | C2H3ClO
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-Phenyl-4-(3-pyridyl)-1,3-thiazol-2-yl]acetamide | 750 mg, yield 59% | C1(=CC=CC=C1)C1=C(N=C(S1)NC(C)=O)C=1C=NC=CC1 | C16H13N3OS
